US05451604
To a stirred solution of 50% sodium hydroxide (5.2 g, 65.2 mmol) there was added 4-fluorophenylacetonitrile (10.0 g, 74.1 mmol), sodium hydroxide pellets (0.7 g, 18.5 mmol) and tetrabutylammonium chloride (3.3 g, 14.1 mmol) and the reaction mixture was heated to 45° C. To the reaction mixture there was added 2-bromopropane (10.0 g, 81.5 mmol) and the reaction mixture heated at 60°-65° C. for 1 hour, and then at 90°-95° C. for 1 hour. The reaction mixture was cooled to ambient temperature. The reaction mixture was diluted with a mixture of 1:1 diethyl ether/water (100 mL). The layers were separated and the aqueous layer was washed with diethyl ether (25 mL). The organic layers were combined, washed with brine (25 mL), dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (silica gel, 30/70 methylene chloride/hexane) to give 9.4 g (71% yield) of 4-fluoro-a-(1-methylethyl)benzeneacetonitrile as a white oil. 1H NMR (300 MHz, CDCl3) d 7.31 (m, 2H), 7.08 (m, 2H), 3.65 (d, 1H), 2.12 (m, 1H), 1.07 (d, 3H), 1.03 (d, 3H).

reactant | sodium hydroxide | 65.2 mmol, 5.2 g | [OH-].[Na+]
reactant | 4-fluorophenylacetonitrile | 74.1 mmol, 10.0 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | 2-bromopropane | 81.5 mmol, 10.0 g | BrC(C)C | C3H7Br
catalyst | tetrabutylammonium chloride | 14.1 mmol, 3.3 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether water | 100 mL | C(C)OCC.O
product | 4-fluoro-a-(1-methylethyl)benzeneacetonitrile | 9.4 g, 71% yield | FC1=CC=C(C=C1)C(C#N)C(C)C | C11H12FN
